US07612114B2
4-[2-(4-Hydroxyphenyl)-2-methylpropyl]-3-[4-(2-piperidin-1-ylethoxy)phenoxy]phenol
Synthesized from 4-{5-methoxy-2-[2-(4-methoxyphenyl)-2-methylpropyl]phenoxy}phenol and 1-(2-chloroethyl)piperidine hydrochloride according to an analogous synthetic method to Preparation Example 40, 1-{2-{4-{5-methoxy-2-[2-(4-methoxyphenyl)-2-methylpropyl]phenoxy}phenoxy}ethyl}piperidine (190 mg) was used according to an analogous synthetic method to Example 779 described below to provide the title compound (118 mg).

reactant | 4-{5-methoxy-2-[2-(4-methoxyphenyl)-2-methylpropyl]phenoxy}phenol | COC=1C=CC(=C(OC2=CC=C(C=C2)O)C1)CC(C)(C)C1=CC=C(C=C1)OC | C24H26O4
reactant | 1-(2-chloroethyl)piperidine hydrochloride | Cl.ClCCN1CCCCC1
reactant | 1-{2-{4-{5-methoxy-2-[2-(4-methoxyphenyl)-2-methylpropyl]phenoxy}phenoxy}ethyl}piperidine | 190 mg | COC=1C=CC(=C(OC2=CC=C(OCCN3CCCCC3)C=C2)C1)CC(C)(C)C1=CC=C(C=C1)OC | C31H39NO4
product | 4-[2-(4-Hydroxyphenyl)-2-methylpropyl]-3-[4-(2-piperidin-1-ylethoxy)phenoxy]phenol | 118 mg | OC1=CC=C(C=C1)C(CC1=C(C=C(C=C1)O)OC1=CC=C(C=C1)OCCN1CCCCC1)(C)C | C29H35NO4
